US09056843B2
Intermediate 157a: tert-butyl methyl(2-(4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzamido)ethyl)carbamate
To a suspension of 4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid (1 g, 3.87 mmol) in DCM (10 ml) was added COMU (1.825 g, 4.26 mmol) and DIPEA (0.812 ml, 4.65 mmol). The yellow solution was stirred for 2 min at rt and turned red. N-Boc-N-methyl-ethylenediamine (0.810 g, 4.65 mmol) was added and the reaction mixture was stirred at reflux for 1 hr, allowed to cool to rt and washed with water, saturated aqueous NH4Cl, and extracted with EtOAc. The organic layer was dried over Na2SO4 and the solvent was removed in vacuum. The final product was purified according to Method B in Examples 124-156 general method.

reactant | 4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | 3.87 mmol, 1 g | FC(C1=NC(=NO1)C1=CC=C(C(=O)O)C=C1)(F)F | C10H5F3N2O3
reactant | COMU | 4.26 mmol, 1.825 g | CCOC(=O)C(=NOC(=[N+](C)C)N1CCOCC1)C#N.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.65 mmol, 0.812 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-Boc-N-methyl-ethylenediamine | 4.65 mmol, 0.810 g | C(=O)(OC(C)(C)C)N(CCN)C | C8H18N2O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl methyl(2-(4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzamido)ethyl)carbamate | CN(C(OC(C)(C)C)=O)CCNC(C1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)=O | C18H21F3N4O4
